US06159904
72-6) Synthesis of 6-acetyl-4-methoxymethyl-5,8-dimethylthiochroman-1,1-dioxide
A mixture containing 0.30 g (1.1 mmol) of 6-acetyl-4-methoxymethyl-5,8-dimethylthiochroman, 0.39 ml of a30 wt % hydrogen peroxide aqueous solution and 0.3 ml of acetic acid was allowed to react at 60° C. for 2 hours, and further allowed to react at 80° C. for 1 hour. The reaction mixture was cooled to room temperature, and a 2 wt % sodium hydrosulfite aqueous solution was added. The mixture was extracted with ethyl acetate, and the extract was washed with a saturated sodium chloride aqueous solution. An organic layer was dried over anhydrous sodium sulfate and filtered, and the solvent was distilled off to give 0.32 g (yield 94%) of the titled compound as a crude product.

reactant | 6-acetyl-4-methoxymethyl-5,8-dimethylthiochroman | 1.1 mmol, 0.30 g | C(C)(=O)C=1C(=C2C(CCSC2=C(C1)C)COC)C | C15H20O2S
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
product | 6-acetyl-4-methoxymethyl-5,8-dimethylthiochroman-1,1-dioxide | 0.32 g, yield 94% | C(C)(=O)C=1C(=C2C(CCS(C2=C(C1)C)(=O)=O)COC)C | C15H20O4S
